US05922727
1-[(4-Hydroxymethylcyclopent-1-en-1-yl)methyl]-5-isopropyl-6-phenylthio-2,4-pyrimidinedione
5-Isopropyl-6-phenylthio-2,4-pyrimidinedione and [(4-t-butyldimethylsilyl-oxymethylcyclopent-1-en-1-yl)methyl bromide were reacted by the same way with the example 6 to obtain the titled compound (67 mg)

reactant | 5-Isopropyl-6-phenylthio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC=CC=C1)=O)=O | C13H14N2O2S
reactant | (4-t-butyldimethylsilyl-oxymethylcyclopent-1-en-1-yl)methyl bromide | C(C)(C)(C)C1CC(=C(C1)CBr)CO[SiH](C)C | C13H25BrOSi
product | 1-[(4-Hydroxymethylcyclopent-1-en-1-yl)methyl]-5-isopropyl-6-phenylthio-2,4-pyrimidinedione | 67 mg, Yield(%): 29.5 | OCC1CC=C(C1)CN1C(NC(C(=C1SC1=CC=CC=C1)C(C)C)=O)=O | C20H24N2O3S
